US04290971
5.2 g (0.02 M) of N-(2,6-dichlorophenyl)-N'-acetyl-thiourea, 2.1 ml (0.015 M) of ground potassium carbonate, 3.2 ml (0.03 M) of n-butylbromide and 50 ml of acetone are boiled in a reflux under energetic shaking for 4 hours. The acetone is distilled off. The residue in the flask is washed with water and filtered. 5.8 g (90.6% of the theoretical yield) of N-(2,6-dichlorophenyl)-N'-acetyl-S-n-butylisothiourea with a melting point of 84°-89° are obtained. After recrystallization from ethanol the product has a melting point of 97°-100°.

reactant | N-(2,6-dichlorophenyl)-N'-acetyl-thiourea | 0.02 M, 5.2 g | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(C)=O | C9H8Cl2N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | n-butylbromide | 0.03 M, 3.2 ml | C(CCC)Br | C4H9Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(2,6-dichlorophenyl)-N'-acetyl-S-n-butylisothiourea | ClC1=C(C(=CC=C1)Cl)NC(SCCCC)=NC(C)=O | C13H16Cl2N2OS
